US07989454B2
4-(2-(2-Carboxy-ethyl)-3-{6-[3-cyclopropylcarbamoyl-5-(4-methyl-thiophen-3-yl)-phenoxy]-hexyl}-phenoxy)-butyric acid
The acid component, 3-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-(4-methyl-thiophen-3-yl)-benzoic acid or 3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid (0.15 mmol), the appropriate amine (1.2 eq.), PyBroP (1.1 eq.), diisopropylethylamine (2 eq.) and dichloromethane (2 mL) were combined together and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic extract was dried over anhydrous sodium sulfate and concentrated to dryness. The material was used without further purification for the next step. The total amount of the product obtained from the previous step was dissolved in ethanol (2 mL) and a 10 M NaOH solution was added (3 eq.). The resulting reaction mixture was stirred at room temperature for 5 h. Then it was neutralized with 3 N HCl and extracted into ethyl acetate. The organic extract was dried over anhydrous sodium sulfate and concentrated to dryness. The crude material was purified on reverse-phase HPLC to afford the title compound.

reactant | 3-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-5-(4-methyl-thiophen-3-yl)-benzoic acid | C(C)OC(=O)CCC1=C(C=CC=C1OCCCC(=O)OCC)CCCCCCOC=1C=C(C(=O)O)C=C(C1)C1=CSC=C1C | C35H44O8S
reactant | 3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid | 0.15 mmol | O1CCOC2=C1C=CC(=C2)C=2C=C(C(=O)O)C=C(C2)OCCCCCCC2=C(C(=CC=C2)OCCCC(=O)OCC)CCC(=O)OCC | C38H46O10
reactant | PyBroP | 1.1 eq. | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaOH | 10 M | [OH-].[Na+]
reactant | HCl | 3 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(2-(2-Carboxy-ethyl)-3-{6-[3-cyclopropylcarbamoyl-5-(4-methyl-thiophen-3-yl)-phenoxy]-hexyl}-phenoxy)-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC1=CC(=CC(=C1)C1=CSC=C1C)C(NC1CC1)=O | C34H41NO7S
